US09120749B2
(trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate
To a suspension of (6-bromo-4-((trans-4-(hydroxymethyl)cyclohexyl)amino)quinolin-3-yl) (cyclopropyl)methanone (1.23 g, 3.05 mmol) in dichloromethane (60 mL) was added triethylamine (2.09 mL, 15 mmol) and methanesulfonyl chloride (0.35 mL, 4.5 mmol) was added dropwise. The reaction mixture was stirred for 2 h. The solution was then diluted with saturated sodium bicarbonate solution and extracted with dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, ethyl acteate/hexanes) afforded the desired product (0.98 g, 67%) as a white solid. ESI MS m/z 481 [C21H25BrN2O4S+H]+

reactant | (6-bromo-4-((trans-4-(hydroxymethyl)cyclohexyl)amino)quinolin-3-yl) (cyclopropyl)methanone | 3.05 mmol, 1.23 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CO | C20H23BrN2O2
reactant | triethylamine | 15 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.5 mmol, 0.35 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate | 0.98 g, 67% | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)Br)C(=O)C1CC1 | C21H25BrN2O4S
